US04218465
GLYOXYLIC ACID β-STYRENESULFONYLHYDRAZONE
In this operation a suspension of 1-formyl-2-(β-styrenesulfonyl)hydrazine (4.98 g, 22 mmol) in 6 N HCl (44 cc) was stirred for 4.5 hr at 50°-55° C. After cooling a small amount of insoluble material was removed by filtration. The filtrate was added all at once to a stirred solution of glyoxylic acid monohydrate (2.4 g, 26 mmol) in water (180 cc), and stirring was continued for 3 hr. The white crystalline solid which had precipitated was collected by filtration and air dried to give 3.0 g of the product compound, m.p. 141° (dec.).

reactant | 1-formyl-2-(β-styrenesulfonyl)hydrazine | 22 mmol, 4.98 g | C(=O)NNS(=O)(=O)C=CC1=CC=CC=C1 | C9H10N2O3S
reactant | glyoxylic acid monohydrate | 26 mmol, 2.4 g | O.C(C=O)(=O)O
solvent | HCl | 6 N, 44 cc | Cl | ClH
solvent | water | 180 cc | O | H2O
product | GLYOXYLIC ACID β-STYRENESULFONYLHYDRAZONE | 3.0 g | C(=CC1=CC=CC=C1)S(=O)(=O)NN=CC(=O)O | C10H10N2O4S
